US03987047
11-Hydroxy-2,3,4,5-tetrahydro-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester was prepared from 2-benzyl-11-hydroxy-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline and ethyl chloroformate analogous to Example 208. Yield: 9% of theory; m.p. 285° C.

reactant | 2-benzyl-11-hydroxy-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline | C(C1=CC=CC=C1)N1CC=2C(=NC=3C=CC=CC3C2O)CCC1 | C20H20N2O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 11-Hydroxy-2,3,4,5-tetrahydro-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester | Yield: 9% | C(C)OC(=O)N1CC=2C(=NC=3C=CC=CC3C2O)CCC1 | C16H18N2O3
